US04617307
5-p-Cyanophenyl-5,6,7,8-tetrahydroimidazo[1,5-a]pyridine
A solution of 1.6 g of 5-p-cyanophenyl-7,8-dihydroimidazo[1,5-a]pyridine in 50 ml of ethyl acetate is hydrogenated at atmospheric pressure with 0.2 g of 5% palladium on charcoal until the theoretical uptake of hydrogen is complete. The catalyst is filtered, and the solvent evaporated to yield the title compound, m.p. 117°-118°.

reactant | 5-p-cyanophenyl-7,8-dihydroimidazo[1,5-a]pyridine | 1.6 g | C(#N)C1=CC=C(C=C1)C1=CCCC=2N1C=NC2 | C14H11N3
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium on charcoal | 0.2 g | [Pd] | Pd
product | 5-p-Cyanophenyl-5,6,7,8-tetrahydroimidazo[1,5-a]pyridine | C(#N)C1=CC=C(C=C1)C1CCCC=2N1C=NC2 | C14H13N3
